* File: NAND2.pex.netlist.pex
* Created: Mon Oct 24 21:45:32 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_OUT 3 10 13 19 23 29 30 31 33 36 39 40 41
c44 39 0 1.60791e-19
c45 30 0 1.23141e-19
c46 29 0 4.87369e-20
r47 36 37 1.7
r48 33 36 0.075566
r49 29 37 0.0454031
r50 29 30 0.0154694
r51 26 40 10
r52 23 26 0.634399
r53 23 40 10
r54 21 23 0.915167
r55 20 31 0.00944082
r56 19 21 0.0479332
r57 19 20 1.20954
r58 16 39 10
r59 13 16 0.634399
r60 13 39 10
r61 11 31 0.0363272
r62 11 13 0.915167
r63 10 31 0.0363272
r64 9 30 0.0789133
r65 9 10 0.822873
r66 7 41 30
r67 3 7 0.421637
r68 3 41 10
r69 1 30 0.0789133
r70 1 7 0.520732
.ends

.subckt PM_NAND2_GND! 1 6 14 17 22
r25 12 17 0.0178067
r26 12 14 0.337558
r27 9 22 30
r28 6 9 0.421637
r29 6 22 10
r30 4 17 0.0301946
r31 4 6 1.23577
r32 1 17 30
.ends

.subckt PM_NAND2_VDD! 1 6 14 17 21
c31 1 0 1.60791e-19
r32 12 17 0.0178067
r33 12 14 0.79799
r34 10 21 10
r35 6 10 0.634399
r36 6 21 10
r37 4 17 0.0301946
r38 4 10 1.69141
r39 1 17 30
.ends

.subckt PM_NAND2_A 4 6 10 12 14 16 22 23
c44 23 0 1.66026e-19
c45 22 0 1.23141e-19
c46 16 0 1.8551e-19
c47 6 0 1.20139e-19
c48 4 0 1.34409e-19
r49 22 23 25
r50 16 23 1.7
r51 9 22 3.40227
r52 9 10 1.15077
r53 6 14 90.5109
r54 5 10 6.00199
r55 5 6 107.618
r56 4 10 6.00199
r57 3 12 45.2555
r58 3 4 33.0365
.ends

.subckt PM_NAND2_B 4 6 10 12 14 16 22 23
c37 23 0 1.56058e-19
c38 16 0 9.84907e-20
c39 6 0 4.73445e-20
c40 4 0 2.55454e-19
r41 22 23 25
r42 16 23 1.7
r43 9 22 3.51474
r44 9 10 1.15077
r45 6 14 90.5109
r46 5 10 6.00199
r47 5 6 107.618
r48 4 10 6.00199
r49 3 12 45.2555
r50 3 4 33.0365
.ends

