* File: NOR.pex.netlist
* Created: Thu Oct 20 16:27:35 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* 
.include "NOR.pex.netlist.pex"
.subckt NOR  OUT GND! VDD! A B
* 
* B	B
* A	A
* VDD!	VDD!
* GND	GND
* OUT	OUT
XD0_noxref N_GND!_D0_noxref_pos N_VDD!_D0_noxref_neg DIODENWX  AREA=1.85396e-11
+ PERIM=1.7592e-05
XMMN0 N_OUT_MMN0_d N_A_MMN0_g N_GND!_MMN0_s N_GND!_D0_noxref_pos NFET L=7e-08
+ W=1e-06 AD=9.66e-13 AS=3.01e-13 PD=3.932e-06 PS=1.602e-06 NRD=0.305 NRS=0.311
+ M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=0 SA=9.66e-07 SB=1.426e-06 SD=0
+ PANW1=0 PANW2=0 PANW3=0 PANW4=7e-16 PANW5=3.5e-15 PANW6=7e-15 PANW7=1.4e-14
+ PANW8=1.4e-14 PANW9=2.8e-14 PANW10=2.8e-15
XMMN1 N_OUT_MMN1_d N_B_MMN1_g N_GND!_MMN0_s N_GND!_D0_noxref_pos NFET L=7e-08
+ W=1e-06 AD=7.54e-13 AS=3.01e-13 PD=3.508e-06 PS=1.602e-06 NRD=0.51 NRS=0.291
+ M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=0 SA=1.638e-06 SB=7.54e-07 SD=0
+ PANW1=0 PANW2=0 PANW3=0 PANW4=7e-16 PANW5=3.5e-15 PANW6=7e-15 PANW7=1.4e-14
+ PANW8=1.4e-14 PANW9=2.8e-14 PANW10=2.8e-15
XMMP0 NET13 N_A_MMP0_g N_VDD!_MMP0_s N_VDD!_D0_noxref_neg PFET L=7e-08 W=2e-06
+ AD=6.02e-13 AS=1.932e-12 PD=2.602e-06 PS=5.932e-06 NRD=0.1505 NRS=0.1525 M=1
+ NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=1 SA=9.66e-07 SB=1.426e-06 SD=0
+ PANW1=0 PANW2=0 PANW3=0 PANW4=0 PANW5=0 PANW6=0 PANW7=0 PANW8=0 PANW9=4.48e-15
+ PANW10=2.1894e-13
XMMP1 N_OUT_MMP1_d N_B_MMP1_g NET13 N_VDD!_D0_noxref_neg PFET L=7e-08 W=2e-06
+ AD=1.508e-12 AS=6.02e-13 PD=5.508e-06 PS=2.602e-06 NRD=0.255 NRS=0.1505 M=1
+ NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=1 SA=1.638e-06 SB=7.54e-07 SD=0
+ PANW1=0 PANW2=0 PANW3=0 PANW4=0 PANW5=0 PANW6=0 PANW7=0 PANW8=0
+ PANW9=1.4448e-13 PANW10=4.494e-14
*
.include "NOR.pex.netlist.NOR.pxi"
*
.ends
*
*
