* File: NOR.pex.netlist.pex
* Created: Thu Oct 20 16:27:35 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR_OUT 3 9 10 13 20 23 29 32 34 36 37 38
c47 32 0 6.71537e-20
r48 32 39 0.100843
r49 32 34 1.7
r50 26 36 10
r51 23 26 0.634399
r52 23 36 10
r53 21 39 0.047746
r54 21 23 1.82548
r55 20 39 0.047746
r56 19 29 0.0363272
r57 19 20 0.168072
r58 17 38 30
r59 13 17 0.421637
r60 13 38 10
r61 11 29 0.0363272
r62 11 17 0.265224
r63 9 29 0.00944082
r64 9 10 2.47335
r65 7 37 30
r66 3 7 0.421637
r67 3 37 10
r68 1 10 0.0479332
r69 1 7 0.265224
.ends

.subckt PM_NOR_GND! 1 6 14 17 22
r33 12 17 0.0178067
r34 12 14 0.771759
r35 9 22 30
r36 6 9 0.408036
r37 6 22 10
r38 4 17 0.0301946
r39 4 6 1.23965
r40 1 17 30
.ends

.subckt PM_NOR_VDD! 1 6 14 21
r20 12 17 0.0178067
r21 12 14 1.27154
r22 10 21 10
r23 6 10 0.634399
r24 6 21 10
r25 4 17 0.0301946
r26 4 10 1.69141
r27 1 17 30
.ends

.subckt PM_NOR_A 4 6 10 12 14 19 22 23
c35 23 0 2.67393e-19
c36 19 0 1.31455e-19
c37 6 0 1.20217e-19
c38 4 0 1.34556e-19
r39 22 23 25
r40 19 23 1.7
r41 9 22 3.40227
r42 9 10 1.15077
r43 6 14 90.5109
r44 5 10 6.00199
r45 5 6 107.618
r46 4 10 6.00199
r47 3 12 45.2555
r48 3 4 33.0365
.ends

.subckt PM_NOR_B 4 6 10 12 14 16 22 23
c43 23 0 2.23212e-19
c44 16 0 9.87148e-20
c45 6 0 1.92785e-19
c46 4 0 2.06063e-19
r47 22 23 25
r48 16 23 1.7
r49 9 22 3.51474
r50 9 10 1.15077
r51 6 14 90.5109
r52 5 10 6.00199
r53 5 6 107.618
r54 4 10 6.00199
r55 3 12 45.2555
r56 3 4 33.0365
.ends

