* File: OAI22.pex.netlist.pex
* Created: Tue Oct 25 00:08:09 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22_NET26 3 9 10 14 19 20 23 29 30 32
c44 3 0 1.54024e-19
r45 27 32 30
r46 23 27 0.408036
r47 23 32 10
r48 21 27 0.297284
r49 19 21 0.0479332
r50 19 20 1.84918
r51 17 30 30
r52 14 17 0.408036
r53 14 30 10
r54 12 20 0.0479332
r55 12 17 0.297284
r56 11 14 0.721835
r57 9 11 0.0479332
r58 9 10 1.25811
r59 6 29 30
r60 3 6 0.408036
r61 3 29 10
r62 1 10 0.0479332
r63 1 3 0.721835
.ends

.subckt PM_OAI22_OUT 3 9 10 15 22 23 26 28 30 33
c54 33 0 2.29951e-19
c55 23 0 1.58912e-19
c56 22 0 1.39524e-19
c57 15 0 1.12523e-19
r58 23 34 0.158653
r59 23 33 0.11062
r60 22 26 0.0262957
r61 22 23 1.7
r62 18 28 10
r63 15 18 0.634399
r64 15 34 1.25617
r65 15 28 10
r66 11 33 0.212762
r67 9 11 0.0479332
r68 9 10 0.713092
r69 7 30 30
r70 3 7 0.421637
r71 3 30 10
r72 1 10 0.0479332
r73 1 7 0.789842
.ends

.subckt PM_OAI22_GND! 1 6 14 17 22
r30 12 17 0.0178067
r31 12 14 0.771759
r32 9 22 30
r33 6 9 0.421637
r34 6 22 10
r35 4 17 0.0301946
r36 4 6 1.23577
r37 1 17 15
.ends

.subckt PM_OAI22_VDD! 1 6 12 16 24 32 33
c41 6 0 8.19939e-20
r42 22 29 0.0178067
r43 22 24 0.164982
r44 20 33 10
r45 16 20 0.636342
r46 16 33 10
r47 14 29 0.0301946
r48 14 20 1.69141
r49 13 27 0.0178067
r50 12 29 0.0178067
r51 12 13 1.97496
r52 10 32 10
r53 6 10 0.634399
r54 6 32 10
r55 4 27 0.0301946
r56 4 10 1.69141
r57 1 27 15
.ends

.subckt PM_OAI22_A 6 10 12 17 20 21 22
c30 22 0 1.52496e-19
c31 21 0 3.6956e-19
c32 20 0 8.19939e-20
c33 17 0 1.58473e-19
c34 6 0 1.97043e-19
r35 20 23 6.95874
r36 20 22 5.97656
r37 20 21 25
r38 17 21 1.7
r39 6 12 90.5109
r40 6 23 55.0307
r41 3 10 45.2555
r42 3 22 85.6234
.ends

.subckt PM_OAI22_B 6 10 12 14 20 21 22
c42 22 0 1.32011e-19
c43 21 0 1.98806e-19
c44 14 0 3.30228e-19
c45 6 0 1.94786e-19
r46 20 23 6.95874
r47 20 22 5.97656
r48 20 21 25
r49 14 21 1.7
r50 6 12 90.5109
r51 6 23 54.7591
r52 3 10 45.2555
r53 3 22 85.8949
.ends

.subckt PM_OAI22_D 6 10 12 14 20 21 22
c34 22 0 7.51089e-20
c35 21 0 4.26318e-19
c36 20 0 1.58912e-19
c37 14 0 2.91512e-19
c38 6 0 9.01247e-20
r39 20 23 7.04483
r40 20 22 6.17005
r41 20 21 25
r42 14 21 1.7
r43 6 12 90.5109
r44 6 23 54.7591
r45 3 10 45.2555
r46 3 22 85.8949
.ends

.subckt PM_OAI22_C 6 10 12 17 20 21 22
c25 22 0 1.79645e-19
c26 21 0 1.42286e-20
c27 17 0 1.52279e-19
c28 6 0 1.74195e-19
r29 20 23 6.95874
r30 20 22 5.97656
r31 20 21 25
r32 17 21 1.7
r33 6 12 90.5109
r34 6 23 54.9401
r35 3 10 45.2555
r36 3 22 85.7139
.ends

