* File: XOR2.pex.netlist.pex
* Created: Mon Oct 24 22:24:44 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2_GND! 1 6 12 16 22 26 34 43 44 46
r50 32 39 0.0178067
r51 32 34 0.0861423
r52 29 46 30
r53 26 29 0.408036
r54 26 46 10
r55 24 39 0.0301946
r56 24 26 1.23965
r57 23 37 0.0178067
r58 22 39 0.0178067
r59 22 23 1.01889
r60 19 44 30
r61 16 19 0.408036
r62 16 44 10
r63 14 37 0.0301946
r64 14 16 1.23965
r65 13 35 0.0178067
r66 12 37 0.0178067
r67 12 13 0.893942
r68 9 43 30
r69 6 9 0.408036
r70 6 43 10
r71 4 35 0.0301946
r72 4 6 1.23965
r73 1 37 10
.ends

.subckt PM_XOR2_NET8 6 10 12 15 21 22 25 31 35 36 38 39 40 43
r71 36 44 7.42772
r72 36 43 8.05331
r73 35 36 25
r74 33 35 0.38472
r75 32 38 0.0363272
r76 31 33 0.0479332
r77 31 32 1.15762
r78 29 40 30
r79 25 29 0.421637
r80 25 40 10
r81 23 38 0.00944082
r82 23 29 0.319628
r83 21 38 0.0363272
r84 21 22 0.457583
r85 18 39 10
r86 15 18 0.634399
r87 15 39 10
r88 13 22 0.0479332
r89 13 15 2.19368
r90 6 12 90.5109
r91 6 44 90.0584
r92 3 10 45.2555
r93 3 43 41.1825
.ends

.subckt PM_XOR2_OUT 3 9 10 15 23 25 27 29 32
c57 27 0 1.07935e-19
r58 23 33 0.158237
r59 23 32 0.110672
r60 23 25 1.7
r61 18 27 10
r62 15 18 0.634399
r63 15 33 1.25617
r64 15 27 10
r65 11 32 0.810583
r66 9 11 0.0479332
r67 9 10 0.385691
r68 7 29 30
r69 3 7 0.421637
r70 3 29 10
r71 1 10 0.0479332
r72 1 7 0.374033
.ends

.subckt PM_XOR2_VDD! 1 6 14 17 21
c46 1 0 2.1587e-19
r47 12 17 0.0178067
r48 12 14 1.246
r49 10 21 10
r50 6 10 0.634399
r51 6 21 10
r52 4 17 0.0301946
r53 4 10 1.69141
r54 1 17 30
.ends

.subckt PM_XOR2_NET13 3 9 10 13 19 21
c31 19 0 1.07935e-19
c32 3 0 1.27195e-19
r33 17 21 10
r34 13 17 0.636342
r35 13 21 10
r36 11 17 0.839389
r37 9 11 0.0479332
r38 9 10 0.802471
r39 7 19 10
r40 3 7 0.634399
r41 3 19 10
r42 1 10 0.0479332
r43 1 7 0.839389
.ends

.subckt PM_XOR2_A 2 6 9 10 12 14 18 20 22 24 29 32 33 34
r70 32 35 7.00449
r71 32 34 6.08767
r72 32 33 25
r73 29 33 1.7
r74 14 24 90.5109
r75 13 22 45.2555
r76 13 14 160.747
r77 12 22 45.2555
r78 11 12 32.2219
r79 9 11 3.46412
r80 9 10 212.248
r81 6 20 90.5109
r82 6 35 55.0307
r83 3 18 45.2555
r84 3 34 85.6234
r85 2 18 45.2555
r86 1 10 3.46412
r87 1 2 32.2219
.ends

.subckt PM_XOR2_B 4 6 7 8 14 16 18 20 22 24 26 29 33 34 35
c83 33 0 1.27195e-19
r84 33 36 6.96541
r85 33 35 5.99476
r86 33 34 25
r87 29 34 1.7
r88 26 29 0.0257423
r89 15 24 90.5109
r90 15 16 44.9839
r91 14 24 90.5109
r92 14 36 54.7591
r93 11 22 45.2555
r94 11 35 85.8949
r95 7 16 3.46412
r96 7 8 114.858
r97 6 8 3.46412
r98 5 20 90.5109
r99 5 6 44.9839
r100 4 20 90.5109
r101 3 18 45.2555
r102 3 4 160.747
.ends

